US06706709B2
3-(1H-Indol-3-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide
5-Aminosulfonyl-2-oxindole was condensed with indole-3-carboxaldehyde to give the title compound.

reactant | 5-Aminosulfonyl-2-oxindole | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | indole-3-carboxaldehyde | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 3-(1H-Indol-3-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide | N1C=C(C2=CC=CC=C12)C=C1C(NC2=CC=C(C=C12)S(=O)(=O)N)=O | C17H13N3O3S
